Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Sulfamide / Norvasc / Mucinex
 
Attending: ___.
 
Chief Complaint:
right side hearing loss
 
Major Surgical or Invasive Procedure:
___: right suboccipital craniotomy for resection of 
cerebellopontine angle tumor 

 
History of Present Illness:
he is a ___ gentleman who presents with right 
cerebellopontine angle schwannoma, which extends into his 
posterior fossa and appears cystic in nature on imaging.

To briefly summarize events leading up to his presentation here, 
the patient has a ___ history of right-sided hearing loss 
associated with the imbalance, which has been gradually 
progressing.  Workup for this revealed large right CP angle 
mass.

He denies any nausea, vomiting, weakness, bowel or bladder 
abnormalities, but does have right-sided pain that appears to be 
trigeminal and extension.

 
Past Medical History:
HTN, IDDM, hashimotos thyroiditis, BPH, CKD stage 3, reflux, BPH 

 
Social History:
___
Family History:
mother passed at ___ with cancer
father, brother and sister with no reported major medical issues 

 
Physical Exam:
on admission:
alert, Ox3, PERRL, EOMI, ___, TML
Strength full. no drift, sensation intact
right side hearing loss

at discharge:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Equal, round, reactive to light

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [ ]No [x]Equivocal - possible slight R
pronator drift

Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right5          5     5     5          5
Left5          5     5     5          5         
Wound: 
          [x]Clean, dry, intact 
[ ]Steris [ ]Suture [x]Staples [ ]None

HEENT: Left upper neck ecchymosis with underlying firmness, 
unchanged from ___. 
 
Pertinent Results:
please see OMR for pertinent results 
 
Brief Hospital Course:
Mr. ___ presents for elective resection of right 
cerebellopontine angle schwannoma.

#vestibular schwannoma
He was taken to the OR on ___ and underwent right 
suboccipital craniotomy for tumor resection with Dr. ___ 
(___) and Dr. ___. Procedure was 
uncomplicated. Frozen was consistent with schwannoma. He was 
extubated and transferred to the Neuro ICU. He was started on 
Decadron with a quick taper. 
Postop MRI showed expected postop changes without complication, 
however he does have some residual tumor. He had expected postop 
nausea and dizziness, treated with hydroxyzine and Zofran.

On ___ he developed an area of induration and overlying 
ecchymosis on left neck along with accompanying pain. Pain 
improved and induration/ecchymosis stable from ___ to ___, 
likely just due to positioning during surgery, as left neck was 
not part of surgical field. 

#HTN
Patient was hypertensive intraop requiring multiple doses of 
labetalol PRN and nicardipine. Postop he was started on 
nicardipine drip, but weaned off and resumed home medications. 

#Diabetes
He was started on insulin drip postoperatively to manage blood 
sugars. He was started on home lantus POD#1 and weaned off 
insulin drip. ___ was consulted for medication 
recommendations while on decadron taper. SS and lantus were 
increased. 

#Urinary retention 
He required multiple straight catheterizations after foley was 
removed. He continued on home Flomax. Voiding without issues on 
day of discharge. 

#Pressure Sore
The Wound Care Service was consulted for a pressure sore on the 
patient's left buttocks.

#MSK
___ initially thought that he would be best served by discharge 
to a rehabilitation facility, but on re-evaluation on ___, they 
determined that the would be safe to discharge home with 
outpatient vestibular ___. 

 
Medications on Admission:
spironolactone, Lipitor, Flomax, insulin (glargine 26qHS + 
aspart SS), Lasix 20, synthroid 50, lisinipril 40, metoprolol 
100 bid, omeprazole 20, ranitidine 300 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth q6 hours Disp 
#*56 Tablet Refills:*2 
2.  Artificial Tears ___ DROP RIGHT EYE PRN Discomfort 
RX *dextran 70-hypromellose (PF) [Artificial Tears (PF)] 0.1 
%-0.3 % ___ drops eye q1 hour Disp #*1 Bottle Refills:*2 
3.  Heparin 5000 UNIT SC BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four (4) hours 
Disp #*10 Capsule Refills:*0 
5.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth daily Disp #*14 
Tablet Refills:*2 
6.  Atorvastatin 80 mg PO QPM  
7.  Furosemide 20 mg PO DAILY  
8.  Glargine 26 Units Breakfast
Glargine 30 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
9.  Levothyroxine Sodium 50 mcg PO DAILY  
10.  Lisinopril 40 mg PO DAILY  
11.  Metoprolol Tartrate 100 mg PO BID  
12.  Omeprazole 20 mg PO DAILY  
13.  Ranitidine 300 mg PO QHS  
14.  Spironolactone 25 mg PO DAILY  
15.  Tamsulosin 0.4 mg PO DAILY qam  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
cerebellopontine angle tumor / vestibular schwannoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Surgery
_x0095_You underwent surgery to remove a lesion from your brain. 
_x0095_Please keep your incision dry until your sutures/staples are 
removed. 
_x0095_You may shower at this time but keep your incision dry.
_x0095_It is best to keep your incision open to air but it is ok to 
cover it when outside. 
_x0095_Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 
Activity
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. 
_x0095_Open mouth to sneeze and cough (do not stifle sneeze or cough)
_x0095_Refrain from bending forward for 28 days
_x0095_Wear slip on shoes for 28 days (no shoes with laces)
Medications
_x0095_Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_Dizziness is common after resection of Acoustic Neuromas
_x0095_You may experience headaches and incisional pain. 
_x0095_Feeling more tired or restlessness is also common.
_x0095_Constipation is common.  Drink plenty of fluids and eat a 
high-fiber diet. If you are taking prescription pain 
medications, try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg
_x0095_Eye pain or redness or visual changes
_x0095_Clear drainage from your nose or throat with salty taste
Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason
_x0095_
Follow-up Appointments:   
Otolaryngology:
_x0095_Follow up in 6 weeks in the ___ Medical Office Building (___), ___. Call ___ for an 
appointment with Dr. ___:
_x0095_Please follow up in the ___ clinic  in 7 days for 
wound check and suture/staples removal.
_x0095_Please follow-up with Dr. ___ in 2 weeks. Call 
___ to make this appointment. 
_x0095_Please call ___ with any questions or concerns. 

 
Followup Instructions:
___